US04806538
A mixture of (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(2-pyridylmethyl)piperazine-2,5-dione (0.10 g) and methyl iodide (5 ml) was stirred under reflux for 4 days. After evaporation of the excess methyl iodide, crude oily residue was washed with chloroform and ether, and dried in vacuo to give (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(1-methyl-2-pyridiniomethyl)piperazine-2,5-dione iodide as a solid (0.12 g).

reactant | (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(2-pyridylmethyl)piperazine-2,5-dione | 0.10 g | CN1C=C(C2=CC=CC=C12)[C@@H](C)[C@@H]1C(N[C@@H](C(N1)=O)CC1=NC=CC=C1)=O | C21H22N4O2
reactant | methyl iodide | 5 ml | CI | CH3I
product | (3R,6R)-3-[(R)-1-(1-methylindol-3-yl)ethyl]-6-(1-methyl-2-pyridiniomethyl)piperazine-2,5-dione iodide | 0.12 g | [I-].CN1C=C(C2=CC=CC=C12)[C@@H](C)[C@@H]1C(N[C@@H](C(N1)=O)C[CH2+]1N(C=CC=C1)C)=O | InChI=1S/C22H27N4O2.HI/c1-14(17-13-26(3)19-10-5-4-9-16(17)19)20-22(28)23-18(21(27)24-20)12-15-8-6-7-11-25(15)2;/h4-11,13-14,18,20H,12,15H2,1-3H3,(H,23,28)(H,24,27);1H/q+1;/p-1/t14-,18-,20-;/m1./s1
